US03998954
A mixture of 6-methoxyhomophthalic acid (9.7 g., 0.05 mole) and allylamine (2.8 g., 0.05 mole) is heated by an oil bath until molten for 40 minutes. The mixture solidifies upon cooling and is recrystallized from isopropanol, giving 2-allyl-5-methoxyisoquinoline-1,3(2H,4H)-dione.

reactant | 6-methoxyhomophthalic acid | 0.05 mole, 9.7 g | COC=1C=CC=C(C1CC(=O)O)C(=O)O | C10H10O5
reactant | allylamine | 0.05 mole, 2.8 g | C(C=C)N | C3H7N
product | 2-allyl-5-methoxyisoquinoline-1,3(2H,4H)-dione | C(C=C)N1C(C2=CC=CC(=C2CC1=O)OC)=O | C13H13NO3
